US05952335
A suspension of 2.0 g (10.6 mmol) of 2-hydrazinobenzoic acid hydrochloride in acetic acid (20 ml) was slowly boiled under stirring and 1.2 ml (9.8 mmol) of 4-methylcyclohexanone was dropped thereinto. The obtained mixture was heated under reflux for 8 hours and then allowed to cool. After adding water, the precipitate thus formed was recovered by filtration, washed with water and dried to thereby give 1.96 g of 6-methyl-5,6,7,8-tetrahydro-9H-carbazole-1-carboxylic acid. This product was dissolved in acetone (50 ml) and 2.1 ml (34 mmol) of methyl iodide and 2.35 g (17 mmol) of anhydrous potassium carbonate were added thereto. The reaction mixture was heated under reflux under stirring for 2 hours, then allowed to cool and extracted with water and ethyl acetate. The organic layer was taken up, washed with water, dried over magnesium sulfate and concentrated to dryness. Thus 1.49 g of methyl 6-methyl-5,6,7,8-tetrahydro-9H-carbazole-1-carboxylate was obtained. This product was suspended in diphenyl ether (10 ml) and 890 mg of 10% palladium-carbon was added thereto. The obtained mixture was heated under reflux under stirring in a nitrogen atmosphere for 1 hour. After allowing to cool, It was dissolved by adding tetrahydrofuran. Then the catalyst was filtered off and the filtrate was concentrated. After adding n-hexane, the crystals thus formed were recovered by filtration to thereby give 1.26 g of the title compound.

reactant | 2-hydrazinobenzoic acid hydrochloride | 10.6 mmol, 2.0 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | 4-methylcyclohexanone | 9.8 mmol, 1.2 ml | CC1CCC(CC1)=O | C7H12O
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-methyl-5,6,7,8-tetrahydro-9H-carbazole-1-carboxylic acid | 1.96 g | CC1CC=2C=3C=CC=C(C3NC2CC1)C(=O)O | C14H15NO2
